US05827863
a) Ethyl 3-cyclopropyl-3-oxopropanoate
To a cooled (-70° C.) solution of monoethyl malonate (33.97 g, 257.10 mmol) in THF (639 mL) was added n-BuLi (1.6M in hexanes, 319 mL, 514.19 mmol) and the mixture was stirred under an argon atmosphere for 15 min. The resulting solution was cooled to -65° C. and cyclopropanecarbonyl chloride (15.55 g, 148.77 mmol) was added. The reaction mixture was stirred for 1 h and then allowed to warm up to room temperature. Some drops of water were added and THF was removed. The residue was taken up in 1N HCl/Et2O and extracted with Et2O. The organic phase was washed with saturated NaHCO3, dried and concentrated to a residue. This was purified by chromatography on silica gel (hexane-EtOAc mixtures of increasing polarity) to afford the title compound as a yellow oil (14.7 g, 63%).

reactant | monoethyl malonate | 257.10 mmol, 33.97 g | C(CC(=O)[O-])(=O)OCC
reactant | n-BuLi | 514.19 mmol, 1.6M, 319 mL | [Li]CCCC
reactant | cyclopropanecarbonyl chloride | 148.77 mmol, 15.55 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | water | O | H2O
solvent | THF | 639 mL | C1CCOC1 | C4H8O
product | Ethyl 3-cyclopropyl-3-oxopropanoate | 14.7 g, 63% | C1(CC1)C(CC(=O)OCC)=O | C8H12O3
